US05952328
Methyl 2-methyl-4-methoxy-2H-1,2-benzothiazine-3-carboxylate
This compound was prepared according to Zinnes et. al., J. Med. Chem., 1973, 16, 44-48. Thus, a solution of methyl 2-methyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate (500 mg, 1.86 mmol) (Lombardino, et. al., J. Med. Chem., 1971, 14, 1171-1177, incorporated by reference herein in its entirety) in acetone (10 ml) was treated with anhydrous potassium carbonate (2.6 g, 18.6 mmol) and iodomethane (1.32 g, 9.29 mmol) and refluxed for 40 hours. The mixture was filtered and concentrated and the residue was partitioned between ethyl acetate and water. The organic phase was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered and concentrated to afford 285 mg (54%) of the title compound as a yellow viscous oil, used subsequently without need for further purification; NMR (CDCl3) δ 3.03 (s, 3H), 3.83 (s, 3H), 3.91 (s, 3H), 7.67-7.72 (m, 2H), 7.81-7.88 (m, 2H); MS: 284 m/z (M+H)+.

reactant | methyl 2-methyl-4-hydroxy-2H-1,2-benzothiazine-3-carboxylate | 1.86 mmol, 500 mg | CN1SC2=C(C(=C1C(=O)OC)O)C=CC=C2 | C11H11NO3S
reactant | potassium carbonate | 18.6 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 9.29 mmol, 1.32 g | IC | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Methyl 2-methyl-4-methoxy-2H-1,2-benzothiazine-3-carboxylate | 285 mg, 54% | CN1SC2=C(C(=C1C(=O)OC)OC)C=CC=C2 | C12H13NO3S
